US05468742
0.715 g of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-(3-methyl-but-3-en-1-inyl)-4-oxo-3-quinolinecarboxylate is refluxed for 1.5 hours in a mixture of 10 ml of glacial acetic acid, 0.5 ml of water and 0.2 ml of concentrated sulphuric acid. The reaction mixture is poured into 100 ml of water. The solid which has precipitated is filtered off with suction, washed with water and dried. 0.53 g of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-(3-methyl-but-3-en-1-inyl)-4-oxo-3-quinolinecarboxylic acid is obtained (80% of theory).

reactant | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-(3-methyl-but-3-en-1-inyl)-4-oxo-3-quinolinecarboxylate | 0.715 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C#CC(=C)C)F)F)=O)C(=O)OCC | C20H17F2NO3
reactant | water | 0.5 ml | O | H2O
reactant | sulphuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-(3-methyl-but-3-en-1-inyl)-4-oxo-3-quinolinecarboxylic acid | 0.53 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C#CC(=C)C)F)F)=O)C(=O)O | C18H13F2NO3
